US06552067B2
To a solution of tetrahydro-pyrrolizine-3,5-dione (5 g, 36 mmol) in CH2Cl2 (320 mL) at 0° C. was added benzyl magnesium chloride (1 M solution in THF, 39 mL, 39 mmol) dropwise. The solution was stirred at 0° C. for 3 h and was quenched with saturated aqueous ammonium chloride. After warming to room temperature, the aqueous solution was extracted with CH2Cl2 (3×). The combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was purified by medium pressure chromatography eluting with a solvent gradient (1% MeOH in CH2Cl2to 2% MeOH in CH2Cl2) to yield 5.9021 g of 5-(3-oxo-4-phenyl-butyl)-pyrrolidin-2-one. 1H NMR (CDCl3) δ7.35-7.18 (m, 5H), 3.69 (s, 2H), 3.56 (m, 1H), 2.50 (t, 2H), 2.27 (m, 2H), 2.15 (m, 1H), 1.73 (m, 2H), 1.61 (m, 1H).

reactant | tetrahydro-pyrrolizine-3,5-dione | 36 mmol, 5 g | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | benzyl magnesium chloride | 39 mmol, 1 M, 39 mL | C(C1=CC=CC=C1)[Mg]Cl
solvent | CH2Cl2 | 320 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-oxo-4-phenyl-butyl)-pyrrolidin-2-one | 5.9021 g | O=C(CCC1CCC(N1)=O)CC1=CC=CC=C1 | C14H17NO2
